US07893258B2
Preparation of 1-[2-(2-ethyl-oxazolidin-3-yl)-ethoxy]-6-propyl-nonan-2-ol
To a 10 mL flask containing 1-[2-(2-hydroxy-ethylamino)-ethoxy]-6-propyl-nonan-2-ol (510 mg, 1.76 mmol, 1 eq.) in toluene (3 mL) was added dropwise at room temperature propionaldehyde (0.14 mL 1.85 mmol, 1.05 eq., d=0.798) before heating to reflux with a Dean-Stark trap for 2 h. The reaction was cooled to room temperature and concentrated to afford the title compound as 2 stereoisomers (50:50) (580 mg, 100% yield). 1H NMR (CDCl3, 400 MHz) d?(ppm): 4.09-4.03 (m, H); 3.92-3.81 (m, 2H); 3.81-3.73 (m, H); 3.73-3.50 (m, 2H+2H); 3.35-3.21 (m, 2H); 2.92-2.74 (m, 2H); 2.72-2.63 (m, H); 2.62-2.52 (m, H); 1.69-1.14 (m, 15H+2H); 0.96 (m, 3H); 0.87 (t, J=7.0 Hz, 6H). 13C NMR (CDCl3, 129.9 MHz) d?(ppm): 98.0; 97.9; 76.1; 75.7; 70.6 (2C); 70.2 (2C); 64.2 (2C); 53.2; 53.1; 52.6 (2C); 36.9 (2C); 36.0 (2C+2C); 33.7 (2C); 33.6; 33.5; 26.9; 26.8; 22.7 (2C); 19.8 (2C+2C); 14.5 (2C+2C); 9.2 (2C).

reactant | 1-[2-(2-hydroxy-ethylamino)-ethoxy]-6-propyl-nonan-2-ol | 1.76 mmol, 510 mg, 1 eq. | OCCNCCOCC(CCCC(CCC)CCC)O | C16H35NO3
reactant | propionaldehyde | 1.85 mmol, 0.14 mL, 1.05 eq. | C(CC)=O | C3H6O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-ethyl-oxazolidin-3-yl)-ethoxy]-6-propyl-nonan-2-ol | 100% yield | C(C)C1OCCN1CCOCC(CCCC(CCC)CCC)O | C19H39NO3
